US03966953
SYNTHESIS OF 3-ISOPROPYL-2-[O-(METHYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE
To a solution of 1.0 g of 3-isopropyl-2-oximino-4-thiazolidinone in 50 ml acetone-acetonitrile solution (1:1) was added 1 ml of methylisocyanate and 5 drops of triethylamine. The reaction mixture was placed in a pressure bottle and left overnight at ambient temperature. After concentrating under vacuo the residual oil was diluted with diethylether. On cooling the product crystallized. Recrystallized from ethyl ether. Weight 1.8 g. m.p. 94°-96°C.

reactant | 3-isopropyl-2-oximino-4-thiazolidinone | 1.0 g | C(C)(C)N1C(SCC1=O)=NO | C6H10N2O2S
reactant | methylisocyanate | 1 ml | CN=C=O | C2H3NO
solvent | acetone acetonitrile | 50 ml | CC(=O)C.C(C)#N
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
product | 3-ISOPROPYL-2-[O-(METHYLCARBAMOYL) OXIMINO]-4-THIAZOLIDINONE | C(C)(C)N1C(SCC1=O)=NOC(NC)=O | C8H13N3O3S
